US09228075B2
Preparation of N-hydroxyethyl-N-methylpyrrolidinium tetrafluoroborate
Subsequently, about 36.9 g (0.3 mol) of the obtained N-hydroxyethyl-N-methylpyrrolidinium chloride and about 32.3 g (0.3 mol) of sodium tetrafluoroborate were dissolved in about 200 mL of acetone, and were then stirred at a temperature of about 25° C. and a pressure of about 1 atm for about 48 hours under a nitrogen atmosphere to form a mixed solution containing sodium chloride. The mixed solution was filtered by a filter paper to remove sodium chloride therefrom to obtain a liquid. Then, the obtained liquid, about 50 mL of dichloromethane, and about 0.5 mL of distilled water were shaken in a separating funnel for about 10 minutes and thus uniformly mixed with each other to form a mixed solution, and then the mixed solution was left at a temperature of 25° C. and a pressure of about 1 atm for about 48 hours. When the mixed solution was layer-separated in the separating funnel according to a density, the liquid located in a lower portion of the separating funnel was removed, and the liquid located in an upper portion thereof was obtained. These processes were repeatedly conducted three times to obtain a final liquid. The final liquid was left in a vacuum oven at about 35° C. for about 48 hours to further remove water therefrom, thereby obtaining N-hydroxyethyl-N-methylpyrrolidinium tetrafluoroborate at a yield of about 65%.

reactant | N-hydroxyethyl-N-methylpyrrolidinium chloride | 0.3 mol, about 36.9 g | [Cl-].OCC[N+]1(CCCC1)C
reactant | sodium tetrafluoroborate | 0.3 mol, about 32.3 g | F[B-](F)(F)F.[Na+]
reactant | sodium chloride | [Cl-].[Na+]
reactant | dichloromethane | about 50 mL | ClCCl | CH2Cl2
solvent | acetone | about 200 mL | CC(=O)C | C3H6O
solvent | water | about 0.5 mL | O | H2O
product | N-hydroxyethyl-N-methylpyrrolidinium tetrafluoroborate | F[B-](F)(F)F.OCC[N+]1(CCCC1)C | InChI=1S/C7H16NO.BF4/c1-8(6-7-9)4-2-3-5-8;2-1(3,4)5/h9H,2-7H2,1H3;/q+1;-1
